US07470664B2
A mixture of 1-t-butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate (18.0 g, 43.2 mmol) and HCl/dioxane (4 M) (43.2 mL, 173 mmol) was stirred at RT for 2h. The reaction mixture was concentrated to remove the dioxane followed by concentration from Et2O to give (3R,5S)-5-(methoxycarbonyl)pyrrolidin-3-yl 4-vinyl-1,3-dihydro-2H-isoindole-2-carboxylate hydrochloride as an off-white solid (15 g) which was used without further purifcation. LRMS (ESI) m/z 317 [(M+H)+; calcd for C17H21N2O4: 317].

reactant | 1-t-butyl 2-methyl (2S,4R)-4-{[(4-vinyl-1,3-dihydro-2H-isoindol-2-yl)carbonyl]oxy}pyrrolidine-1,2-dicarboxylate | 43.2 mmol, 18.0 g | C(=C)C1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C22H28N2O6
reactant | HCl dioxane | 173 mmol, 4 M, 43.2 mL | Cl.O1CCOCC1
product | (3R,5S)-5-(methoxycarbonyl)pyrrolidin-3-yl 4-vinyl-1,3-dihydro-2H-isoindole-2-carboxylate hydrochloride | 15 g | Cl.C(=C)C1=C2CN(CC2=CC=C1)C(=O)O[C@H]1CN[C@@H](C1)C(=O)OC | InChI=1S/C17H20N2O4.ClH/c1-3-11-5-4-6-12-9-19(10-14(11)12)17(21)23-13-7-15(18-8-13)16(20)22-2;/h3-6,13,15,18H,1,7-10H2,2H3;1H/t13-,15+;/m1./s1
